US06743926B2
(E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester
0.63 g (1.49 mmol) of (E)-5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-methylpenta-2,4-dienoic acid methyl ester in 20 ml of THF are introduced into a 50 ml round-bottomed flask equipped with a magnetic stirrer and nitrogen delivery line, 4 ml of 1N ammonium hydroxide solution are added, and the mixture is stirred for 6 hours at room temperature. The reaction mixture is poured into 200 ml of saturated sodium chloride solution and extracted twice with 100 ml of ethyl acetate, and the organic phase is washed three times with 50 ml of water, dried over magnesium sulfate, filtered and concentrated by evaporation. The crude product is purified by means of flash chromatography (hexane/ethyl acetate=9:1). An orange resin is obtained which, according to NMR, is the product in a keto-enol equilibrium of approximately 3:1.

reactant | (E)-5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-methylpenta-2,4-dienoic acid methyl ester | 1.49 mmol, 0.63 g | COC(\C=C(\C=CC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)/C)=O | C24H24FNO2
reactant | ammonium hydroxide | 1N, 4 ml | [OH-].[NH4+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester | COC(CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)=O | C23H22FNO3
